* C:\users\enriqueantunano\ltspice_files\hw1_p3a_eantunano.asc
R1 RF_MEAS_RCVR 0 1k
C1 EUT RF_MEAS_RCVR 0.1 uF
C2 AC_PWR_60HZ 0 1.0 uF
L1 AC_PWR_60HZ EUT 50 uH
V1 EUT 0 AC AC1
* LISN
.ac dec 1k 100KHz 30meg
.backanno
.end
