* C:\users\enriqueantunano\ltspice_files\hw1_p3c_eantunano.asc
R1 RF_MEAS_RCVR 0 1k
C1 EUT RF_MEAS_RCVR 0.1 uF
C2 AC_PWR_60HZ 0 1.0 uF
L1 AC_PWR_60HZ EUT 50 uH
R2 RF_MEAS_RCVR 0 50
V1 EUT 0 SINE(0 0.25mV 1meg 0 0 0)
* LISN
.tran 0 20us 0
.backanno
.end
