* C:\users\enriqueantunano\ltspice_files\hw3_p5d_eantunano.asc
R1 Vo_dm N007 {R1*(1+TOL_POS)}
R2 N007 N002 {R1*(1+TOL_POS)}
R3 N009 N011 {R1*(1+TOL_NEG)}
R4 0 N009 {R1*(1+TOL_NEG)}
R5 N011 N012 {Rf*(1+TOL_NEG)}
R6 N001 N002 {Rf*(1+TOL_POS)}
R7 N012 N001 {kRf*(1+TOL_POS)}
XU1 N009 N007 V+ V- Vo_dm AD746
XU2 N004 N001 V+ V- N002 AD746
XU3 N015 N012 V+ V- N011 AD746
V1 V+ 0 15V
V2 V- 0 -15
R8 Vo_cm N008 {R1*(1+TOL_POS)}
R9 N008 N005 {R1*(1+TOL_POS)}
R10 N010 N013 {R1*(1+TOL_NEG)}
R11 0 N010 {R1*(1+TOL_NEG)}
R12 N013 N014 {Rf*(1+TOL_NEG)}
R13 N003 N005 {Rf*(1+TOL_POS)}
R14 N014 N003 {kRf*(1+TOL_POS)}
XU4 N010 N008 V+ V- Vo_cm AD746
XU5 N006 N003 V+ V- N005 AD746
XU6 N006 N014 V+ V- N013 AD746
V3 N004 N015 {Vdm} AC 1
V4 N006 0 {Vcm} AC 1
.param Rf=1k
.param R1=10k
.param kRf=100
* Differential Mode Gain
* Common Mode Gain
.param Vcm=10
.param Vdm=200m
.ac dec 1000 1m 20meg
.param TOL_POS=0.01
.param TOL_NEG= -0.01
.op
.MEASURE AC F3DB_DM FIND frequency WHEN VDB(vo_dm)=29 ASCENDING
.MEASURE AC F3DB_CM FIND frequency WHEN (VDB(vo_cm)/VDB(n006))=-137dB
.lib ADI1.lib
.backanno
.end
