* C:\users\enriqueantunano\ltspice_files\hw2_p3g_eantunano.asc
V_S N007 N009 SINE(0 50 5meg 0) AC 50 0
R1 N002 N001 {R_S}
R_L N004 N008 {R_L}
T1 N003 N005 V_L N006 Td=260ns Z0=50
C1 V_in N002 {C_S}
C_L N008 N010 {C_L}
R2 N003 V_in {R_SENSE}
R3 N004 V_L {R_SENSE}
R5 N001 N007 {R_SENSE}
R6 0 N009 {R_SENSE}
R7 N005 0 {R_SENSE}
R8 N010 N006 {R_SENSE}
.param R_S=20 C_S=1n R_L=200 C_L=64p R_SENSE=1m
.tran 0 20u 0 10n
;ac dec 1000 1k 100meg
.backanno
.end
